US20010020034A1
A mixture of (4-cyano-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester (0.70 g, 2.5 mmol), 2,6-di-tert-butyl-4-methylphenol (BHT) (one crystal) and concentrated sulfuric acid (3 mL) was stirred for 18 hours at room temperature. The mixture was diluted with ice water, extracted 3× with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in 10 mL of ethanol at 0° C. and was treated with 0.096 g (2.5 mmol) of NaBH4. After stirring for 30 minutes, the mixture was acidified with 1 M HCl, extracted into ethyl acetate, dried over Na2SO4, filtered and concentrated in vacuo, affording 0.60 g (81%) of (4-carbamoyl-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester as a yellow solid. 1H NMR (400 MHz, acetone-d6) δ 13.0 (s, 1H), 11.0-10.9 (bs, 1H), 10.3 (s, 1H), 7.47 (t, 2H, J=6.8 Hz), 7.37-7.30 (m, 4H) ppm; MS (APCl, m/z): 296 [M+H]−.

reactant | (4-cyano-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester | 2.5 mmol, 0.70 g | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)S)C#N)=O | C11H7N3O2S2
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaBH4 | 2.5 mmol, 0.096 g | [BH4-].[Na+]
reactant | HCl | 1 M | Cl | ClH
product | (4-carbamoyl-3-mercapto-isothiazol-5-yl)-carbamic acid phenyl ester | 0.60 g, 81% | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)S)C(N)=O)=O | C11H9N3O3S2
